Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GERD
 
Major Surgical or Invasive Procedure:
Lap repair of hiatal hernia, nissen fundoplication 

 
History of Present Illness:
The patient is a gentleman with reflux and a
positive pH study and normal manometry.  He is brought to the
operating room for a laparoscopic fundoplication.  We reviewed
the conduct of the operation in detail and also reviewed
potential complications, including esophageal or gastric
injury, postoperative dysphagia and reflux, and potential need
for re-operation.

 
Past Medical History:
Hematochezia
Irritable bowel syndrome
Gastroesophageal reflux
Anal fissure
Psoriasis
Hypertension
Impingement syndrome of right shoulder

PSH
R shoulder arthroplasty ___
Right inguinal hernia repair in ___
tonsillectomy ___
wisdom teeth removal
 
Social History:
___
Family History:
Father: diverticulosis w/ colonic perforation and resection in
___, DMII, CRF, Hypertension
 
Physical Exam:
___ 1149 Temp: 98.4 PO BP: 115/78 HR: 65 RR: 16 O2 sat: 94% 
O2 delivery: Ra 

Gen: [X] NAD, [x] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [x] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [x] minimally tender, [] 
rebound/guarding
Wound: [X] incisions clean, dry, intact
Ext: [X] warm, [] tender, [] edema
 
Pertinent Results:
___ 06:51AM BLOOD WBC-5.7 RBC-4.26* Hgb-12.8* Hct-38.5* 
MCV-90 MCH-30.0 MCHC-33.2 RDW-12.2 RDWSD-39.8 Plt ___
___ 06:51AM BLOOD Glucose-95 UreaN-11 Creat-0.9 Na-140 
K-4.0 Cl-105 HCO3-26 AnGap-9*
___ 06:51AM BLOOD Calcium-8.4 Phos-2.6* Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with GERD and a hiatal 
hernia. He was admitted to the hospital on ___ and underwent 
a hiatal hernia repair and Nissen fundoplication. For details of 
the operative procedure please see the surgeon's operative note. 
After a brief uneventful stay in the PACU he was transferred to 
the surgical floor. On POD 0 he was tolerating sips of liquids 
and on POD 1 was advanced to regular soft diet which was well 
tolerated. He was transitioned to oral pain medications with 
good pain control. 

On POD 1 the patient was tolerating a soft regular diet without 
nausea or emesis. His pain was well controlled with oral pain 
medications. He was resumed on all of his home medications. He 
was ambulating independently and voiding without issue. He was 
deemed medically appropriate for discharge and was discharged 
home on POD 1 with close follow up in the Thoracic Surgery 
Clinic. 
 
Medications on Admission:
1. Lexapro 20 mg tablet qd
2. Vyvanse 40 mg capsule qd
3. Lisinopril 10 mg tablet qd
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain - 
moderate-severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4hr prn Disp #*10 
Tablet Refills:*0 
1. Lexapro 20 mg tablet qd
2. Vyvanse 40 mg capsule qd
3. Lisinopril 10 mg tablet qd

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting.
 -Increased shortness of breath

 Pain
 -Take Tylenol on a standing basis to reduce opiod use.
 -Take stool softners while taking narcotics
 -No driving while taking narcotics

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:
 Full liquid diet for ___ days. Increase to soft solids as 
tolerates

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS

 

 
Followup Instructions:
___